US07727988B2
5-(3-methyl-2-thienyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2,4(1H,3H)-pyrimidinedione hydrochloride (E16)
To a solution of 4-[5-(3-methyl-thiophen-2-yl)-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-butyraldehyde (Prep32, 30 mg, 0.11 mmol), (1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane (Prep4, 21 mg, 0.09 mmol), AcOH (6 μl, 0.1 mmol) in dichloroethane (1.5 mL) and NaBH(AcO)3 (24 mg, 0.11 mmol) were added at 0° C. The reaction was stirred for 30 minutes at room temperature then 2N NaOH (1 mL) was added and the product extracted with ethyl acetate. The organic phase washed with brine, dried (Na2SO4) and evaporated. The crude was purified by flash chromatography with DCM-MeOH—NH4OH (95-5-0.5) to give the title compound (26 mg, 48% yield) as a free base.

reactant | 4-[5-(3-methyl-thiophen-2-yl)-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-butyraldehyde | 0.11 mmol, 30 mg | CC1=C(SC=C1)C=1C(NC(N(C1)CCCC=O)=O)=O | C13H14N2O3S
reactant | (1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane | 0.09 mmol, 21 mg | FC(C1=CC=C(C=C1)[C@]12CNC[C@@H]2C1)(F)F | C12H12F3N
reactant | AcOH | 0.1 mmol, 6 μl | CC(=O)O | C2H4O2
reactant | NaBH(AcO)3 | 0.11 mmol, 24 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaOH | 2N, 1 mL | [OH-].[Na+]
reactant | dichloroethane | 1.5 mL | ClC(C)Cl | C2H4Cl2
product | 5-(3-methyl-2-thienyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2,4(1H,3H)-pyrimidinedione hydrochloride | 26 mg, 48% yield | Cl.CC1=C(SC=C1)C=1C(NC(N(C1)CCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C25H26F3N3O2S.ClH/c1-16-8-11-34-21(16)20-14-31(23(33)29-22(20)32)10-3-2-9-30-13-19-12-24(19,15-30)17-4-6-18(7-5-17)25(26,27)28;/h4-8,11,14,19H,2-3,9-10,12-13,15H2,1H3,(H,29,32,33);1H/t19-,24+;/m0./s1
